### PR TITLE
[Merged by Bors] - feat(Analysis/Calculus): lemmas about derivatives of constant functions

### PR DESCRIPTION
**Pull request by Paul-Lez**
See [discussion on Zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Elementary.20.60HasDerivAt.60.20results)

Co-authored-by: Eric Wieser [wieser.eric@gmail.com](mailto:wieser.eric@gmail.com)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/Deriv/Basic.lean [hunk 1]
```diff
@@ -638,15 +638,27 @@ variable (c : F) (s x L)
 theorem hasDerivAtFilter_const : HasDerivAtFilter (fun _ => c) 0 x L :=
   (hasFDerivAtFilter_const c x L).hasDerivAtFilter
 
+theorem hasDerivAtFilter_zero : HasDerivAtFilter (0 : 𝕜 → F) 0 x L := by
+  simp [hasDerivAtFilter_iff_isLittleO]
```
Comment (eric-wieser) [inline Mathlib/Analysis/Calculus/Deriv/Basic.lean:642]:
```suggestion
theorem hasDerivAtFilter_zero : HasDerivAtFilter (0 : 𝕜 → F) 0 x L :=
  hasDerivAtFilter_const _ _
```
etc, to ensure that the proof doesn't need a different level of generality.

**Review by eric-wieser — COMMENTED** [review]
Can you add `1` and `Nat.cast` and `ofNat()` versions too? You can probably just assume `[One E]` or `[NatCast E]` or `[OfNat E]` respectively in the declaration, rather than anything stronger in the variables.

File: Mathlib/Analysis/Calculus/Deriv/Basic.lean (hunk 1 above)
Comment (Paul-Lez) [reply Mathlib/Analysis/Calculus/Deriv/Basic.lean]: Good point, done.

**Comment by Paul-Lez** [comment]
> Can you add `1` and `Nat.cast` and `ofNat()` versions too? You can probably just assume `[One E]` or `[NatCast E]` or `[OfNat E]` respectively in the declaration, rather than anything stronger in the variables.

I've added the first two - the last one requires the following instance
```
instance {ι : Type*} (S : ι → Type*) (n : ℕ) [∀ i, OfNat (S i) n] : OfNat ((i : ι) → S i) n where
  ofNat := fun _ ↦ ofNat(n)
```
which is perhaps best left to a later PR!

File: Mathlib/Analysis/Calculus/Deriv/Basic.lean [hunk 2]
```diff
@@ -638,29 +638,79 @@ variable (c : F) (s x L)
...
 theorem deriv_const' : (deriv fun _ : 𝕜 => c) = fun _ => 0 :=
   funext fun x => deriv_const x c
 
+@[simp]
+theorem deriv_zero : deriv (0 : 𝕜 → F) = 0 := funext fun _ => deriv_const _ _
+
+@[simp]
+theorem deriv_one [One F] : deriv (1 : 𝕜 → F) = 0 := funext fun _ => deriv_const _ _
+
+theorem deriv_natCast [NatCast F] (n : ℕ) : deriv (n : 𝕜 → F) = 0 := funext fun _ => deriv_const _ _
```
Comment (eric-wieser) [inline Mathlib/Analysis/Calculus/Deriv/Basic.lean:699]: Any reason not to make these ones `simp` too?

**Comment by eric-wieser** [comment]
> which is perhaps best left to a later PR!

This landed; can you add the associated lemmas into this PR?

**Comment by eric-wieser** [comment]
> `deriv_natCast` and `derivWithin_natCast` don't come with a `simp` attribute to avoid issues with the `simpNF` linter.

This behavior is rather unnerving; I don't think it matters enough to hold up this PR, but might be worth opening a zulip thread or lean bug about.

File: Mathlib/Analysis/Calculus/Deriv/Basic.lean [hunk 3]
```diff
@@ -638,29 +638,97 @@ variable (c : F) (s x L)
...
+
+theorem deriv_ofNat (n : ℕ) [OfNat F n] : deriv (ofNat(n) : 𝕜 → F) = 0 :=
```
Comment (eric-wieser) [inline Mathlib/Analysis/Calculus/Deriv/Basic.lean:713]: Please check if `simp` is legal on this and the `derivWithin`; otherwise LGTM!

bors d+

Comment (eric-wieser) [reply Mathlib/Analysis/Calculus/Deriv/Basic.lean:714]: I think `simp low` will fix the other issues?

File: Mathlib/Analysis/Calculus/Deriv/Basic.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Analysis/Calculus/Deriv/Basic.lean:723]: I've just now learnt that `Pi.natCast_def` and `Pi.intCast_def` are marked `simp`, but `Pi.one_def` and `Pi.zero_def` are not (and `Pi.ofNat_def` cannot be).

I'd expect none of these to be simp, so maybe this is something to resolve before merging...

**Comment by eric-wieser** [comment]
maintainer merge

I pushed a change that roughly doubled the size of this PR, so it would be good for someone else to give this a quick skim.

File: Mathlib/Analysis/Calculus/Deriv/Basic.lean [hunk 4]
```diff
@@ -631,36 +631,130 @@ end id
...
+theorem hasDerivAtFilter_one [One F] : HasDerivAtFilter (1 : 𝕜 → F) 0 x L :=
+  hasDerivAtFilter_const _ _ _
+
+theorem hasDerivAtFilter_natCast [NatCast F] (n : ℕ) : HasDerivAtFilter (n : 𝕜 → F) 0 x L :=
+  hasDerivAtFilter_const _ _ _
+
+theorem hasDerivAtFilter_intCast [IntCast F] (z : ℤ) : HasDerivAtFilter (z : 𝕜 → F) 0 x L :=
+  hasDerivAtFilter_const _ _ _
+
+theorem hasDerivAtFilter_ofNat (n : ℕ) [OfNat F n] : HasDerivAtFilter (ofNat(n) : 𝕜 → F) 0 x L :=
```
Comment (urkud) [inline Mathlib/Analysis/Calculus/Deriv/Basic.lean:656]: @eric-wieser  Does this lemma include `Zero` and `One` as special cases? Same below.

Comment (eric-wieser) [reply Mathlib/Analysis/Calculus/Deriv/Basic.lean:656]: For `Pi` specifically, yes; but as a pattern in general, no.

I'd weakly argue that the zero and one versions are worth keeping around for discoverability (both via name guessing and `simp?`)

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
